US04918215
14.3 g (83 mmols) of 4-carboxycinnamonitrile, 11.9 g (100 mmols) of thionyl chloride, 100 ml of toluene and 0.18 ml of N,N-dimethylformamide are boiled under reflux for 15 minutes and then evaporated. Recrystallising the residue twice from carbon tetrachloride gives 7.7 g (48% of theory) of 4-chloroformylcinnamonitrile in the form of yellow crystals; melting point 161.0° C.

reactant | 4-carboxycinnamonitrile | 83 mmols, 14.3 g | C(=O)(O)C1=CC=C(C=CC#N)C=C1 | C10H7NO2
reactant | thionyl chloride | 100 mmols, 11.9 g | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 0.18 ml | CN(C=O)C | C3H7NO
product | 4-chloroformylcinnamonitrile | 7.7 g, 48% | ClC(=O)C1=CC=C(C=CC#N)C=C1 | C10H6ClNO
